* /home/michi/tryProgressBar.oregano
*----------------------------------------------
*	ngspice - NETLIST
.options OUT=120 
*------------- Models -------------------------
.include <VARIABLE>OREGANO_MODELDIR</VARIABLE>1N4148.model
*------------- Circuit Description-------------
V_V3 5 1 dc 0
R_R1 3 0 10k
D_D1 5 3 D1N4148
S1 1 0 2 0 M_S1 
.model M_S1 sw(VT=20 VH=0.0 RON=0.1 ROFF=100G)
V_V2 2 0 dc 0.0 ac 0.0 PULSE -5 25 0.0 0 0 1.0u 10u
L_L1 4 1 300uH
V_V1 4 0 dc 20
C_C1 3 0 100u IC=60

*----------------------------------------------
.tran 0.000000e+00 2.500000e-08 0.000000e+00 uic
.print tran all

.op

.END